US04031226
A mixture of 9 parts of N-{2-[1-(4-fluorophenyl)-4-oxo-1,3,8-triazaspiro[4,5]dec-8-yl]ethyl}-2-nitrobenzamide hydrochloride in 150 parts of acetic acid is hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is taken up in water and the whole is alkalized with ammonium hydroxide. The product is extracted twice with trichloromethane. The combined extracts are washed twice with water, dried, filtered and evaporated. The solid residue is boiled with 2-propanol and filtered. The product is allowed to crystallize from the filtrate. It is filtered off and dried in vacuo, yielding 5 parts of 2-amino-N-{2-[1-(4-fluorophenyl)-4-oxo-1,3,8-triazaspiro[4,5]dec-8-yl]ethyl}benzamide; mp. 194.9° C.

reactant | N-{2-[1-(4-fluorophenyl)-4-oxo-1,3,8-triazaspiro[4,5]dec-8-yl]ethyl}-2-nitrobenzamide hydrochloride | Cl.FC1=CC=C(C=C1)N1CNC(C12CCN(CC2)CCNC(C2=C(C=CC=C2)[N+](=O)[O-])=O)=O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-amino-N-{2-[1-(4-fluorophenyl)-4-oxo-1,3,8-triazaspiro[4,5]dec-8-yl]ethyl}benzamide | NC1=C(C(=O)NCCN2CCC3(C(NCN3C3=CC=C(C=C3)F)=O)CC2)C=CC=C1 | C22H26FN5O2
